* Example: RC Low-Pass Filter
* Tool: Ngspice
*
* This circuit demonstrates the transient charging behavior of a capacitor
* in an RC low-pass filter configuration. The output voltage rises
* exponentially according to the RC time constant τ = RC.

* RC Low Pass Filter Simulation (Ngspice Example)

* Voltage Source
V1 in 0 DC 5

* Resistor
R1 in out 1k

* Capacitor
C1 out 0 1uF

* Transient simulation
.tran 1us 10ms

.control
run
plot v(out)
.endc

.end
